US08110687B2
To a solution of tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]-1H-pyrrole-1-carboxylate (1.99 g, 6.10 mmol) in EtOH (25 mL) was added Pd (200 mg, 10% on carbon). The reaction mixture was allowed to stir for 2 d under an atmosphere of hydrogen. The reaction mixture was filtered through a pad of Celite and washed with EtOAc. The solvents were evaporated to give tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]pyrrolidine-1-carboxylate (1.81 g, 90%) as a white solid. LCMS: (FA) ES+ 331.3.

reactant | tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]-1H-pyrrole-1-carboxylate | 6.10 mmol, 1.99 g | NC=1C=C(C=C(C1)C(F)(F)F)C=1N(C=CC1)C(=O)OC(C)(C)C | C16H17F3N2O2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd | 200 mg | [Pd] | Pd
product | tert-butyl 2-[3-amino-5-(trifluoromethyl)phenyl]pyrrolidine-1-carboxylate | 1.81 g, 90% | NC=1C=C(C=C(C1)C(F)(F)F)C1N(CCC1)C(=O)OC(C)(C)C | C16H21F3N2O2
